US07723524B2
Ethyl 8-cyano-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate
3-Cyano-2,4,5-trifluorobenzoylethyl acetate (883 mg, 3.25 mmol) was dissolved in ethyl orthoformate (1.35 mL, 8.13 mmol). Acetic anhydride (1.07 mL, 11.4 mmol) was added thereto, and the resultant mixture was stirred at 100° C. for 5 hours. The reaction mixture was concentrated under reduced pressure and co-boiled with toluene (5 mL×3). The residue was dissolved in dichloromethane (20 mL). A 2-(S)-fluoro-1-(R)-cyclopropylamine p-toluenesulfonic acid salt (964 mg, 3.90 mmol) was added thereto, triethylamine (679 μL, 4.88 mmol) was added dropwise to the resultant mixture under stirring at −10° C. After completion of dropwise addition, the reaction mixture was stirred at room temperature for 17 hours. Subsequently, water (150 mL) was added to the reaction mixture, and the resultant mixture was extracted with ethyl acetate (150 mL×2). The organic layers were combined and washed with saturated brine (150 mL), followed by drying with sodium sulfate anhydrate. After filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in dimethylformamide (8 mL). Potassium carbonate (898 mg, 6.50 mmol) was added thereto under stirring while cooling with ice, and the resultant mixture was stirred at room temperature for 3 hours. The reaction mixture was cooled with ice, and 1N aqueous hydrochloric acid (15 mL) and water (30 mL) were added thereto, followed by stirring at room temperature for 2 hours. The solid matter that precipitated was collected through filtration and washed with water and a small amount of ethanol, to thereby yield the title compound as a pale yellow solid (890 mg, 82%).

reactant | 3-Cyano-2,4,5-trifluorobenzoylethyl acetate | 3.25 mmol, 883 mg | C(C)(=O)OCCC(C1=C(C(=C(C(=C1)F)F)C#N)F)=O | C12H8F3NO3
reactant | ethyl orthoformate | 8.13 mmol, 1.35 mL | C(OCC)([O-])[O-]
reactant | Acetic anhydride | 11.4 mmol, 1.07 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(S)-fluoro-1-(R)-cyclopropylamine p-toluenesulfonic acid salt | 3.90 mmol, 964 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.F[C@@H]1[C@@H](C1)N
reactant | triethylamine | 4.88 mmol, 679 μL | C(C)N(CC)CC | C6H15N
reactant | Potassium carbonate | 6.50 mmol, 898 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 15 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | Ethyl 8-cyano-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 890 mg, 82% | C(#N)C=1C(=C(C=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)OCC)=O)F)F | C16H11F3N2O3
